US04339267
2-Chloro-N-[(6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-yl)aminocarbonyl]pyridine-3-sulfonamide
To a dry, stirred solution of 7.5 g of 6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-amine in 200 ml of methylene chloride at ambient temperature and pressure is added 13 g of 2-chloropyrimidine-3-sulfonylisocyanate. The resulting mixture is stirred at reflux for 2 hours and then concentrated at reduced pressure. The residue is triturated with 1-chlorobutane and filtered to yield the desired solid product.

reactant | 6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-amine | 7.5 g | CC1=NC(=NC2=C1CCC2)N | C8H11N3
reactant | 2-chloropyrimidine-3-sulfonylisocyanate | 13 g | ClC1N=CC=CN1S(=O)(=O)N=C=O | C5H4ClN3O3S
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-[(6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-yl)aminocarbonyl]pyridine-3-sulfonamide | ClC1=NC=CC=C1S(=O)(=O)NC(=O)NC1=NC2=C(C(=N1)C)CCC2 | C14H14ClN5O3S
